US06043358
To a solution of tetrahydrothiopyran-4-one-3-carboxylic acid, allyl ester (Example 4, step A) (2.3 g, 11.5 mmol) in 100 mL dry chloroform at room temperature was added activated manganese dioxide (10 g, 115 mmol) and the resulting mixture was refluxed for 5 h. The reaction mixture was filtered and evaporated. The the remaining residue was purified by flash column chromatography on silica gel eluted with hexane:ethyl acetate (7:3) to give 2,3-dihydrothiopyran-4-one-3-carboxylic acid, allyl ester (0.988 g).

reactant | tetrahydrothiopyran-4-one-3-carboxylic acid | S1CC(C(CC1)=O)C(=O)O | C6H8O3S
solvent | chloroform | 100 mL | C(Cl)(Cl)Cl | CHCl3
catalyst | manganese dioxide | 115 mmol, 10 g | [O-2].[O-2].[Mn+4]
product | 2,3-dihydrothiopyran-4-one-3-carboxylic acid | S1CC(C(C=C1)=O)C(=O)O | C6H6O3S
